2108-09-30 05:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Cardiac cath revealed:
   1. Coronary angiography of this right dominant system revealed three
   vessel coronary artery disease. The LMCA had a mild diffuse 40% stenosi
   s
   distally. The proximal LAD had 50% in stent restenosis which was not
   flow-limiting. The mid to distal LAD was totally occluded just beyond
   the D2. The LCx had a proximal 60-70% stenosis which was unchanged from
   the prior catheterization. The RCA had an ostial 60% stenosis in the
   stent and a 50% distal lesion.
   2. Limited resting hemodynamics demonstrated normal systemic arterial
   blood pressure (SBP 120 mm Hg). The left sided filling pressure was
   mildly elevated (LVEDP 17 mm Hg).
   3. Left ventriculography was deferred.
   4. Successful PCI of the distal LAD with a 2.25x12mm bare metal stent.
   - 8:45PM post cath check shows no hematoma or bruit and good pulses
   peripherally.  No cholesterol emboli.  PM metoprolol and lasix held due
   to low BPs in the 90s. Pt asymptomatic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2108-9-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2108-9-30**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-30**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (73 - 93) bpm
   BP: 96/53(63) {86/46(58) - 134/85(101)} mmHg
   RR: 18 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
                  Total In:
                                                                  2,162 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
                                                                  1,362 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    300 mL
   Urine:
                                                                  1,275 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    887 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with flat JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Regular rate, several PVCs, normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   220 K/uL
   13.8 g/dL
   110 mg/dL
   1.7 mg/dL
   29 mEq/L
   3.5 mEq/L
   47 mg/dL
   97 mEq/L
   138 mEq/L
   40.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2108-9-29**]  12:46 AM
                             [**2108-9-29**]  05:45 AM
                             [**2108-9-29**]  06:17 PM
                             [**2108-9-30**]  04:04 AM
   WBC
   11.4
   13.6
   12.6
   Hct
   43.5
   42.3
   39.4
   40.4
   Plt
   [**Telephone/Fax (3) 9613**]20
   Cr
   2.0
   2.0
   1.7
   TropT
   0.67
   1.63
   3.32
   Glucose
   152
   162
   110
   Other labs: PT / PTT / INR:12.8/23.2/1.1, CK / CKMB /
   Troponin-T:423/42/3.32, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o male with permanent afib (without anticoagulation), CAD s/p MI
   with stenting to RCA, LAD, h/o CHF with EF 30% with biV ICD who
   presented to an OSH on [**2108-9-25**] for acute on chronic chf exacerbation,
   transferred here for persistent chest pain, chest pain free on arrival,
   but re-developed chest pain overnight and taken to cath yesterday
   morning.
   .
   # CORONARIES: cardiac cath [**2106-10-9**] showed right-dominant system with
   three-vessel coronary artery disease (90% RCA ostial in-stent
   restenosis, 50% proximal LCX stenosis, 50% mid vessel LAD stenosis).
   Patient was ruled out for MI at OSH, but now transferred for persistent
   chest pain and now suggestion of ACS on EKG.  Taken to cath with LAD
   stented on [**9-29**] and minimal dye load given.  Chest pain free since and
   post cath check is WNL.
   - CEs on arrival CK=360, MB=57, trop=0.67; repeat CK=635, MB=103,
   trop=1.63 with suggestion of ST elevation in precordial leads but
   difficult to interpret in the setting of his LBBB.  Cath performed and
   LAD stented.  Patient with known 3VD.
   - Loaded with 600mg of Plavix, now on Plavix 75mg daily
   - aspirin 325 mg
   - Coreg 12.5 mg [**Hospital1 **] held due to low BP
   .
   # PUMP: presented to OSH on [**2108-9-25**] for acute on chronic CHF
   exacerbation. EF 30-40% as per OSH records, and s/p biV ICD.
   - was diuresed with IV lasix at OSH
   - Home dose lasix 40 mg PO bid held due to low BP
   - ECHO tomorrow to re-evaluate heart function post ACS event
   - Continue to hold BP meds until pressures rise
   .
   # RHYTHM: underlying rhythm is atrial fibrillation with LBBB
   morphology, now with biV ICD, v-paced at 90-100.
   - cont tele
   - EKG in AM
   .
   # Hypotension - likely in setting of receiving morphine and nitro gtt,
   which may have excessively dropped his preload.
   - currently without CP and normotensive.
   .
   # h/o HTN - currently normotensive.
   - cont BB, lanoxin, furosemide, as BP tolerates
   .
   # h/o PAF - underlying rhythm is permanent afib. Has not undergone
   anticoagulation [**3-12**] fall risk, presyncope, syncope and other
   co-morbidities.
   .
   # positive U/A at OSH - OSH U/A showing 2+ leukocytes, 80-100 WBC, +
   nitrite.
   - resend U/A and Ucx
   - Will treat UTI empirically with cipro
   .
   # pernicious anemia - stable.
   .
   # ulcerative colitis - stable.
   .
   # Prostate CA s/p XRT, radiation cystitis - stable.
   .
   FEN: cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: on heparin sc
   -Bowel regimen with senna/colace
   .
   CODE: DNR, no CPR, external shock ok - confirmed with pt and PCP
   .
   COMM: with patient
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-9-28**] 09:10 PM
   20 Gauge - [**2108-9-29**] 02:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-10-01 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: patient reports chest discomfort that has been going on
   since around 1 or 1:30.  Describes it as pressure but mild ([**3-20**]). EKG
   shows different QRS morphology in V3 and V4 (paced beats looked
   different from EKG on [**9-28**]).  Gave him .3mg Nitro SL- chest pain
   completely resolved.  Patient started on heparin drip.  Enzymes being
   cycled.  Again had chest pain at 03.45- fully resolved with 2
   sublingual nitro.
   This AM- described same chest discomfort that occurred only when he
   ate/drank.  Was given GI cocktail.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2108-9-30**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-1**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 83 (75 - 90) bpm
   BP: 105/60(72) {79/33(39) - 116/84(88)} mmHg
   RR: 23 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 73.1 kg (admission): 72.2 kg
             Total In:
                                                                    244 mL
                                                                     56 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                      4 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    310 mL
   Urine:
                                                                    975 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -731 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with flat JVP
   CARDIAC: Paced rhythm.  Regular rate.  No murmurs/rubs/gallops.
   Several PVCs, normal S1, S2.  No S3 or S4.
   LUNGS: Clear to auscultation bilaterally.  No crackles/wheezesNo chest
   wall deformities, scoliosis or kyphosis.  Resp were unlabored, no
   accessory muscle use.  .
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   232 K/uL
   12.4 g/dL
   139 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   47 mg/dL
   101 mEq/L
   138 mEq/L
   38.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2108-9-29**]  12:46 AM
                             [**2108-9-29**]  05:45 AM
                             [**2108-9-29**]  06:17 PM
                             [**2108-9-30**]  04:04 AM
                             [**2108-9-30**]  10:40 PM
                             [**2108-10-1**]  05:52 AM
   WBC
   11.4
   13.6
   12.6
   10.9
   Hct
   43.5
   42.3
   39.4
   40.4
   38.3
   Plt
   [**Telephone/Fax (3) 9613**]20
   232
   Cr
   2.0
   2.0
   1.7
   1.7
   TropT
   0.67
   1.63
   3.32
   2.97
   Glucose
   152
   162
   110
   139
   Other labs: PT / PTT / INR:12.8/>150.0/1.1, CK / CKMB /
   Troponin-T:120/11/2.97, Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o male with permanent afib (without anticoagulation), CAD s/p MI
   with stenting to RCA, LAD, h/o CHF with EF 30% with biV ICD who
   presented to an OSH on [**2108-9-25**] for acute on chronic chf exacerbation,
   transferred here for persistent chest pain, chest pain free on arrival,
   but re-developed chest pain overnight and taken to cath on [**9-29**], last
   night, patient developed multiple episodes of chest pain which were
   relieved by nitro SL.
   .
   # CORONARIES: cardiac cath [**2106-10-9**] showed right-dominant system with
   three-vessel coronary artery disease (90% RCA ostial in-stent
   restenosis, 50% proximal LCX stenosis, 50% mid vessel LAD stenosis).
   Patient was ruled out for MI at OSH, but now transferred for persistent
   chest pain and now suggestion of ACS on EKG.  Taken to cath with LAD
   stented on [**9-29**] and minimal dye load given.   CEs on arrival CK=360,
   MB=57, trop=0.67; repeat CK=635, MB=103, trop=1.63 with suggestion of
   ST elevation in precordial leads but difficult to interpret in the
   setting of his LBBB.  Cath performed and LAD stented.  Patient with
   known 3VD.   Multiple episodes of chest discomfort overnight- each
   relieved by sublingual nitro.  Patient started on a heparin gtt-
   enzymes trending down from high reached on [**9-30**].  DDx- in-stent
   thrombosis, pericarditis, heart burn, new thrombus in LAD
   - Loaded with 600mg of Plavix, now on Plavix 75mg daily
   - aspirin 325 mg
   - Coreg 12.5 mg [**Hospital1 **] can be resumed due to increased BP
   - continue heparin gtt- follow PTT
   - monitor CEs
   .
   # PUMP: presented to OSH on [**2108-9-25**] for acute on chronic CHF
   exacerbation. EF 30-40% as per OSH records, and s/p biV ICD.
   - Home dose lasix 40 mg PO bid held
   - ECHO this AM- look at LV, wall-motion and for presence of LV thrombus
   - Consider restarting home BP meds given SBP in 110s
   .
   # RHYTHM: underlying rhythm is atrial fibrillation with LBBB
   morphology, now with biV ICD, v-paced at 90-100.
   - cont tele
   - EKG in AM
   .
   # Heartburn:  Was on omeprazole as an outpatient.  Now on plavix so
   will switch to H2 blocker
   -start ranitidine this AM
   .
   # Hypotension
 currently normotensive
   - we can continue home regiment of BP meds.
   .
   # h/o HTN - currently normotensive.
   - cont BB,
   - cont digoxin
   - hold furosemide for sbp < 110
   .
   # h/o PAF - underlying rhythm is permanent afib. Has not undergone
   anticoagulation [**3-12**] fall risk, presyncope, syncope and other
   co-morbidities.
   .
   # positive U/A at OSH - OSH U/A showing 2+ leukocytes, 80-100 WBC, +
   nitrite.
   - resend U/A and Ucx
   - Will treat UTI empirically with cipro
   .
   # pernicious anemia - stable.
   .
   # ulcerative colitis - stable.
   .
   # Prostate CA s/p XRT, radiation cystitis - stable.
   .
   FEN: cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: on heparin gtt
   -Bowel regimen with senna/colace
   .
   CODE: DNR, no CPR, external shock ok - confirmed with pt and PCP
   .
   COMM: with patient
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-9-29**] 02:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2108-10-1**] 09:41 ------